US09260418B2
To a solution of 1-amino-4-bromo-N-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-2-naphthamide (0.800 g, 2.13 mmol) in 10 mL of DMSO under an atmosphere of nitrogen was added potassium acetate (0.628 g, 6.40 mmol), bis(pinacolato)diboron (0.596 g, 2.34 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II), 1:1 complex with dichloromethane (0.174 g, 0.213 mmol). The mixture was heated at 50° C. for 16 h, cooled to rt, and diluted with water and ethyl acetate. The organic solution was washed 3× with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-3% methanol in dichloromethane to provide 3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[h]quinazolin-4(3H)-one that gave proton NMR spectra consistent with theory.

reactant | 1-amino-4-bromo-N-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-2-naphthamide | 2.13 mmol, 0.800 g | NC1=C(C=C(C2=CC=CC=C12)Br)C(=O)N[C@@H]1[C@H](COCC1)O | C16H17BrN2O3
reactant | potassium acetate | 6.40 mmol, 0.628 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.34 mmol, 0.596 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.213 mmol, 0.174 g | ClCCl | CH2Cl2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[h]quinazolin-4(3H)-one | O[C@H]1COCC[C@@H]1N1C=NC2=C3C(=C(C=C2C1=O)B1OC(C(O1)(C)C)(C)C)C=CC=C3 | C23H27BN2O5
